US06897231B2
A. N-(tert-Butyl)[3-(5-cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]carboxamide
Following Example 357, the reaction of 3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoic acid (0.8 g, 2.3 mmol), HOBT (1.16 g, 8.62 mmol), EDCI (1.64 g, 8.62 mmol) and tert-butylamine (0.73 mL, 0.5 g, 6.9 mmol) furnished 0.72 g (74% yield) of the title compound. ES-MS (m/z) 403 [M+H]+.

reactant | 3-(5-cyano-1-perhydro-2H-pyran-2-yl-1H-indazol-3-yl)benzoic acid | 2.3 mmol, 0.8 g | C(#N)C=1C=C2C(=NN(C2=CC1)C1OCCCC1)C=1C=C(C(=O)O)C=CC1 | C20H17N3O3
reactant | HOBT | 8.62 mmol, 1.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 8.62 mmol, 1.64 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | tert-butylamine | 6.9 mmol, 0.73 mL, 0.5 g | C(C)(C)(C)N | C4H11N
product | N-(tert-Butyl)[3-(5-cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]carboxamide | 0.72 g, 74% yield | C(C)(C)(C)NC(=O)C1=CC(=CC=C1)C1=NN(C2=CC=CC=C12)C1OCC(CC1)C#N | C24H26N4O2
